US07601874B2
To a stirred solution of 3-(chloromethyl)pyridine hydrochloride (5.17 g, 31.5 mmol) in water (8 mL) was added K2CO3 (4.34 g, 31.5 mmol) portionwise. The resulting mixture was extracted three times with diethyl ether. The extracts were combined and washed twice with brine, dried and concentrated. The residue (3.25 g, 25.5 mmol) was dissolved in xylene (30 mL) and Ph3P (6.70 g, 25.5 mmol) was added. The mixture was heated at 133-134° C. overnight and then cooled to ambient temperature. The solid product was filtered, washed with toluene, and dried under vacuum to give (3-pyridylmethyl)triphenylphosphonium chloride (5.86 g, 48%) as a pinkish solid.

reactant | 3-(chloromethyl)pyridine hydrochloride | 31.5 mmol, 5.17 g | Cl.ClCC=1C=NC=CC1
reactant | K2CO3 | 31.5 mmol, 4.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ph3P | 25.5 mmol, 6.70 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | water | 8 mL | O | H2O
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (3-pyridylmethyl)triphenylphosphonium chloride | 5.86 g, 48% | [Cl-].N1=CC(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H21NP.ClH/c1-4-12-22(13-5-1)26(23-14-6-2-7-15-23,24-16-8-3-9-17-24)20-21-11-10-18-25-19-21;/h1-19H,20H2;1H/q+1;/p-1
